US07540978B2
N-Acetyl-4-isopropylaniline
Acetic anhydride (26.0 g, 254 mmol) is slowly added dropwise to a solution of 4-isopropylaniline (17.2 g, 127 mmol) in 80 ml of chloroform. In the course of this, intense heating of the reaction mixture occurs. On completion of the dropwise addition, the mixture is stirred at room temperature for another 2 h. The reaction mixture is concentrated to dryness and the resulting, reddish-white solid is recrystallized from hexane.

reactant | Acetic anhydride | 254 mmol, 26.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-isopropylaniline | 127 mmol, 17.2 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Acetyl-4-isopropylaniline | C(C)(=O)NC1=CC=C(C=C1)C(C)C | C11H15NO
